* r:\esim_simulations\volt_gen_gray\volt_gen_gray.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
* u5  clk net-_u2-pad8_ net-_u5-pad3_ gray_bin_5bit_fsm
* u6  net-_u5-pad3_ clk out4 out3 out2 out1 out0 sipo_5bit
vin1  in0 gnd pulse(5 5 1m 1m 1m 10 10)
vin2  in1 gnd pulse(5 5 1m 1m 1m 10 10)
vin3  in2 gnd pulse(5 5 1m 1m 1m 10 10)
vin4  in3 gnd pulse(5 5 1m 1m 1m 10 10)
vin5  in4 gnd pulse(5 5 1m 1m 1m 10 10)
vclk1  net-_u4-pad6_ gnd pulse(0 5 1m 1m 1m 0.5 1)
vshift1  shift gnd pulse(0 5 1m 1m 1m 10 10)
* u12  out4 plot_v1
* u14  out3 plot_v1
* u15  out2 plot_v1
* u16  out1 plot_v1
* u17  out0 plot_v1
* u7  in0 plot_v1
* u3  clk plot_v1
* u9  in1 plot_v1
* u10  in2 plot_v1
* u11  in3 plot_v1
* u13  in4 plot_v1
* u4  in4 in3 in2 in1 in0 net-_u4-pad6_ shift net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ clk net-_u2-pad7_ adc_bridge_7
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ clk net-_u2-pad7_ net-_u2-pad8_ piso_5bit
* u1  shift plot_v1
* s c m o d e
x1 vdd vss gnd net-_sc1-pad1_ analog gnd avsd_opamp
xsc5 net-_sc1-pad1_ net-_sc5-pad2_ gnd sky130_fd_pr__res_generic_pd l=100 w=100
xsc4 net-_sc1-pad1_ net-_sc4-pad2_ gnd sky130_fd_pr__res_generic_pd l=100 w=100
xsc3 net-_sc1-pad1_ net-_sc3-pad2_ gnd sky130_fd_pr__res_generic_pd l=100 w=100
xsc2 net-_sc1-pad1_ net-_sc2-pad2_ gnd sky130_fd_pr__res_generic_pd l=100 w=100
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ gnd sky130_fd_pr__res_generic_pd l=100 w=100
* u8  analog plot_v1
v1 vdd gnd  dc 1
v2 gnd vss  dc 1
* u18  out0 out1 out2 out3 out4 net-_sc5-pad2_ net-_sc4-pad2_ net-_sc3-pad2_ net-_sc2-pad2_ net-_sc1-pad2_ dac_bridge_5
a1 [clk ] [net-_u2-pad8_ ] [net-_u5-pad3_ ] u5
a2 [net-_u5-pad3_ ] [clk ] [out4 out3 out2 out1 out0 ] u6
a3 [in4 in3 in2 in1 in0 net-_u4-pad6_ shift ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ clk net-_u2-pad7_ ] u4
a4 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ ] [clk ] [net-_u2-pad7_ ] [net-_u2-pad8_ ] u2
a5 [out0 out1 out2 out3 out4 ] [net-_sc5-pad2_ net-_sc4-pad2_ net-_sc3-pad2_ net-_sc2-pad2_ net-_sc1-pad2_ ] u18
* Schematic Name:                             gray_bin_5bit_fsm, NgSpice Name: gray_bin_5bit_fsm
.model u5 gray_bin_5bit_fsm(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             sipo_5bit, NgSpice Name: sipo_5bit
.model u6 sipo_5bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_7, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             piso_5bit, NgSpice Name: piso_5bit
.model u2 piso_5bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u18 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out4)
plot v(out3)
plot v(out2)
plot v(out1)
plot v(out0)
plot v(in0)
plot v(clk)
plot v(in1)
plot v(in2)
plot v(in3)
plot v(in4)
plot v(shift)
plot v(analog)
.endc
.end
